US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 1.8 respectively, starting from 391 mg (0.91 mmol) of methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-oxopyrrolidin-1-yl)pyridine-2-carboxylate and 265 mg (1.36 mmol) of 2-aminoadamantane-2-carboxylic acid, we obtain 241 mg of 2-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-oxopyrrolidin-1-yl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid hydrochloride in the form of white powder.

reactant | methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-oxopyrrolidin-1-yl)pyridine-2-carboxylate | 0.91 mmol, 391 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OC)N1C(CCC1)=O)OCCCN(C)C | C22H26ClN3O4
reactant | 2-aminoadamantane-2-carboxylic acid | 1.36 mmol, 265 mg | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
product | 2-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-oxopyrrolidin-1-yl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid hydrochloride | 241 mg, Yield=39% | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O)N2C(CCC2)=O)OCCCN(C)C | InChI=1S/C32H39ClN4O5.ClH/c1-36(2)10-4-12-42-27-18-21(6-7-24(27)33)29-26(37-11-3-5-28(37)38)9-8-25(34-29)30(39)35-32(31(40)41)22-14-19-13-20(16-22)17-23(32)15-19;/h6-9,18-20,22-23H,3-5,10-17H2,1-2H3,(H,35,39)(H,40,41);1H
